US06579884B1
Synthesis of 1-[8-(2,3-dimethylbenzylamino)-2-methylimidazo[1,2-a]pyridine-3-yl]-1-ethanol
To a mixture of 3-acetyl-8-(2,6-dimethylbenzylamino)-2-methylimidazo[1,2-a]pyridine (500 mg, 1.63 mmol) and methanol (20 ml) was sodium borohydride (62 mg, 1.63 mmol) added in portions. Tetrahydrofuran was added and the mixture stirred for 1 hour. TLC showed starting material and sodium borohydride (62 mg, 1.63 mmol) was added and the mixture stirred for 1.5 hour. The solvent was removed under reduced pressure and to the residue, methylene chloride and water was added. pH was adjusted to pH=3 with hydrogen chloride (conc.) and thereafter alkaline with sodium bicarbonate. The methylene choride layer was separated washed with water, dried over sodium sulfate and evaporated in vacuo. The residue was treated with ethanol/ethyl acetate and after filtration (410 mg, 81%).

reactant | 3-acetyl-8-(2,6-dimethylbenzylamino)-2-methylimidazo[1,2-a]pyridine | 1.63 mmol, 500 mg | C(C)(=O)C1=C(N=C2N1C=CC=C2NCC2=C(C=CC=C2C)C)C | C19H21N3O
reactant | methanol | 20 ml | CO | CH4O
reactant | sodium borohydride | 1.63 mmol, 62 mg | [BH4-].[Na+]
reactant | sodium borohydride | 1.63 mmol, 62 mg | [BH4-].[Na+]
solvent | Tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-[8-(2,3-dimethylbenzylamino)-2-methylimidazo[1,2-a]pyridine-3-yl]-1-ethanol | CC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)C(C)O)C=CC=C1C | C19H23N3O
